US07910744B2
[3-(3-Dimethylamino-1-oxoprop-2-en-yl)phenyl]diphenyl phosphane (4).
A mixture of 9.9 g (32.6 mmol) of (3-acetylphenyl)diphenyl phosphane and 7.7 g (64.7 mmol) of N,N-dimethylformamide dimethylacetal is refluxed under cover gas for 2 h. After removal of the volatiles in high vacuum, the product crystallizes at room temperature. The orange solid is washed with diethyl ether. (Purity: >95%)

reactant | (3-acetylphenyl)diphenyl phosphane | 32.6 mmol, 9.9 g | C(C)(=O)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
reactant | N,N-dimethylformamide dimethylacetal | 64.7 mmol, 7.7 g | COC(N(C)C)OC | C5H13NO2
product | [3-(3-Dimethylamino-1-oxoprop-2-en-yl)phenyl]diphenyl phosphane | CN(C=CC(=O)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H22NOP
